US07067517B2
2-Cyclohexyl-N-(4-hydroxy-phenyl)-acetamide
To a solution of 4-aminophenol (3.83 g, 35.1 mmol) in dichloromethane (50 ml) were added cyclohexylacetyl chloride (11.26 g, 70.1 mmol) and pyridine (5.67 ml, 70.1 mmol), while cooling the reaction mixture in an ice bath. After the addition was completed, the cooling bath was removed and stirring was continued overnight at room temperature. The solvent was removed and the residue was dissolved in THF (300 ml). 6N NaOH (aq, 41 ml) was added and the mixture was stirred at room temperature for 4 h. The solution was acidified with 1 N hydrochloric acid. The solvent was removed by evaporation. The solid material was collected by filtration, dried in vacuo at 40° C. and dissolved in methanol (100 ml). A solution of KOH (5.5 g) in methanol (50 ml) was added. After stirring for 1 h at room temperature water (200 ml) was added and the organic solvent was removed by evaporation. The aqueous phase was acidified with 1 N HCl. The solid material was isolated by filtration and dried in vacuo at 40° C. yielding the title compound (6.31 g, 77% yield, pink crystals).

reactant | 4-aminophenol | 35.1 mmol, 3.83 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | cyclohexylacetyl chloride | 70.1 mmol, 11.26 g | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | pyridine | 70.1 mmol, 5.67 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Cyclohexyl-N-(4-hydroxy-phenyl)-acetamide | 6.31 g, 77% yield | C1(CCCCC1)CC(=O)NC1=CC=C(C=C1)O | C14H19NO2
